US06514964B1
Methyl 2-(2-(N-(4-aminophenyl)carbamoyl)-1H,3H,4H,5H-benzo[e]azapin-5-yl)acetate was prepared by hydrogenation of methyl 2-(2-(N-(4-nitrophenyl)carbamoyl)-1H,3H,4H,5H-benzo[e]azapin-5-yl)acetate with Pd/C in methanol. EI-MS m/z 354 (M+H)+

reactant | methyl 2-(2-(N-(4-nitrophenyl)carbamoyl)-1H,3H,4H,5H-benzo[e]azapin-5-yl)acetate | [N+](=O)([O-])C1=CC=C(C=C1)NC(=O)N1CCC(C2=C(C1)C=CC=C2)CC(=O)OC | C20H21N3O5
solvent | methanol | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | Methyl 2-(2-(N-(4-aminophenyl)carbamoyl)-1H,3H,4H,5H-benzo[e]azapin-5-yl)acetate | NC1=CC=C(C=C1)NC(=O)N1CCC(C2=C(C1)C=CC=C2)CC(=O)OC | C20H23N3O3
